US07700633B2
To a stirred mixture of formic acid (20.7 g, 0.449 mol), acetic anhydride (32.0 g, 0.313 mol) and pyridine (37 g, 0.468 mol) is added at ambient temperature 2-amino-4-nitrophenol (24.0 g, 0.156 mol) in 15 mL of formic acid. Stirring is continued for 18 h. The solid formed is separated by suction filtration, washed with aqueous sodium bicarbonate, water, DCM and hexanes. After air drying for 18 h, N-(2-hydroxy-5-nitrophenyl)-formamide is obtained as a light green solid: (M−H)−=181.1.

reactant | acetic anhydride | 0.313 mol, 32.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.468 mol, 37 g | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-4-nitrophenol | 0.156 mol, 24.0 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
solvent | formic acid | 15 mL | C(=O)O | CH2O2
solvent | formic acid | 0.449 mol, 20.7 g | C(=O)O | CH2O2
product | N-(2-hydroxy-5-nitrophenyl)-formamide | OC1=C(C=C(C=C1)[N+](=O)[O-])NC=O | C7H6N2O4
